US04751298
Synthesis of (2-cyano-ethyl)-(3-hydroxy-propyl)-amine:
75 grams (1 mole) of 3-amino-propanol were treated with 53 grams (1 mole) of acrylonitrile within one hour at 25° C. The mixture was allowed to react further for 1 hour at 40° C. The thus obtained reaction product (128 grams) was directly reacted further with formaldehyde/hydrocyanic acid or formaldehyde/alkali salt of hydrocyanic acid in the presence of alkali hydrogen sulfite.

reactant | 3-amino-propanol | 1 mole, 75 grams | NCCCO | C3H9NO
reactant | acrylonitrile | 1 mole, 53 grams | C(C=C)#N | C3H3N
reactant | formaldehyde hydrocyanic acid | C=O.C#N
reactant | formaldehyde | C=O | CH2O
reactant | hydrocyanic acid | C#N | CHN
reactant | hydrogen sulfite | S(=O)(O)[O-]
product | (2-cyano-ethyl)-(3-hydroxy-propyl)-amine | C(#N)CCNCCCO | C6H12N2O
